US03994918
STEP A: Preparation of spiro[dibenzo[a,d]cycloheptene-5,2'-oxirane].
A mixture of 4.6 g. of sodium hydride (57%) and 100 ml. of dimethylsulfoxide is heated under nitrogen at 75° C. for 50 minutes and the resulting mixture treated by addition of 40 ml. tetrahydrofuran and then cooled to 0° C. Over a period of 3 minutes there is then added 10.2 g. of trimethylsulfonium iodide in 100 ml. of dimethylsulfoxide, the resulting mixture stirred for one minute and there is then added over a period of 10 minutes a solution of 16.4 g. of dibenzo[a,d]cyclo-hepten-5-one in 40 ml. of tetrahydrofuran. The resulting mixture is kept overnight at temperature of 5° C. and then stirred for 3 hours at room temperature (20° C.). The mixture is then poured onto 3 times its volume of ice water, extracted twice each with 600 ml. of pentane, the organic phases combined, washed four times with water, dried over anhydrous sodium sulfate and evaporated in vacuo to crystallize spiro[dibenzo[ a,d] cycloheptene-5,2'-oxirane], m.p. 90°-91° C.

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylsulfonium iodide | [I-].C[S+](C)C
reactant | dibenzo[a,d]cyclo-hepten-5-one | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C15H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | spiro[dibenzo[a,d]cycloheptene-5,2'-oxirane] | O1C2(C1)C1=C(C=CC3=C2C=CC=C3)C=CC=C1 | C16H12O
